US07816522B2
(11a) 5-triisopropylsilanyloxyisophthalic acid dimethyl ester
After adding 5.1 g of imidazole and 12.9 ml of chlorotriisopropylsilane to a 100 ml DMF solution containing 10.5 g of 5-hydroxyisophthalic acid dimethyl ester, the mixture was stirred at room temperature for 15 hours. Water was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with ice-cooled 1N hydrochloric acid, water and saturated brine and dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (21.53 g) as a colorless oil.

reactant | imidazole | 5.1 g | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 12.9 ml | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | 5-hydroxyisophthalic acid dimethyl ester | 10.5 g | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 5-triisopropylsilanyloxyisophthalic acid dimethyl ester | 21.53 g | COC(C1=CC(C(=O)OC)=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)=O | C19H30O5Si
